US06762320B2
c) N-[4-(3-Fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester
A solution of 242 mg (1.77 mmol) chlorocarbonyl-acetic acid methyl ester in 2 ml dichloromethane is added dropwise to an ice-cooled solution of 350 mg (1.61 mmol) 4-(3-fluoro-benzyloxy)-phenylamine in 7 ml of pyridine. The mixture is then stirred for 2 h at room temperature, diluted with water, acidified with dil. hydrochloric acid and extracted with ethyl acetate. The organic phase is dried. Chromatography (silica gel, ethyl acetate/hexane 1:1) yields 99 mg (19%) of the title compound. Yellowish solid; MS: m/e=418.1 (M++H).

reactant | chlorocarbonyl-acetic acid methyl ester | 1.77 mmol, 242 mg | COC(CC(=O)Cl)=O | C4H5ClO3
reactant | 4-(3-fluoro-benzyloxy)-phenylamine | 1.61 mmol, 350 mg | FC=1C=C(COC2=CC=C(C=C2)N)C=CC1 | C13H12FNO
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-[4-(3-Fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester | 99 mg, 19% | COC(CC(=O)NC1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O | C17H16FNO4
